US04134983
A solution of 2-[3-(2,3-epoxypropoxy)phenyl]-4-trifluoromethylimidazole (0.9 g.) in isopropylamine (10 ml.) is heated 6 hours at reflux. The excess isopropylamine is removed by distillation at atmospheric pressure over steam. The residue is triturated with nitromethane (5 ml.) and the resulting solid removed by filtration. After recrystallization from nitromethane 0.65 g. of 2-[3-(3-isopropylamino-2-hydroxypropoxy)phenyl]-4-trifluoromethylimidazole is obtained, m.p. 162.5-163.5° C.

reactant | 2-[3-(2,3-epoxypropoxy)phenyl]-4-trifluoromethylimidazole | 0.9 g | O1C(COC=2C=C(C=CC2)C=2NC=C(N2)C(F)(F)F)C1 | C13H11F3N2O2
solvent | isopropylamine | 10 ml | C(C)(C)N | C3H9N
product | 2-[3-(3-isopropylamino-2-hydroxypropoxy)phenyl]-4-trifluoromethylimidazole | C(C)(C)NCC(COC=1C=C(C=CC1)C=1NC=C(N1)C(F)(F)F)O | C16H20F3N3O2
